US04372953
1-Methyl-5-mercapto-1,2,3,4-tetrazole (1.2 g), potassium carbonate (2.1 g) and 3-chloropropyl 2-naphthyl ketone (3.5 g) are added to acetone (50 ml) and the mixture is refluxed with stirring for 2 hours. The reaction mixture is concentrated to dryness under reduced pressure and the residue dissolved in chloroform. Insolubles are filtered off. The filtrated is concentrated and the residue is purified by silica gel column chromatography [Kieselgel 60, eluant: benzene-ether (10:1)] and the product is recrystallized from ethanol to obtain 1-methyl-5-[3-(2-naphthoyl)propyl]thio-1,2,3,4-tetrazole (yield 51%) as colorless prisms, m.p. 118°-120° C.

reactant | 1-Methyl-5-mercapto-1,2,3,4-tetrazole | 1.2 g | CN1N=NN=C1S | C2H4N4S
reactant | potassium carbonate | 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloropropyl 2-naphthyl ketone | 3.5 g | C1=C(C=CC2=CC=CC=C12)C(=O)CCCCl | C14H13ClO
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-methyl-5-[3-(2-naphthoyl)propyl]thio-1,2,3,4-tetrazole | yield 51% | CN1N=NN=C1SCCCC(=O)C1=CC2=CC=CC=C2C=C1 | C16H16N4OS
